US20010027196A1
To a stirred solution of 600 mg (2,45 mmol) 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile in 12 ml dry DMF under argon at room temperature were added 1.08 g (2.94 mmol) 2-(tributylstannyl)pyridine, 86 mg (0.12 mmol) bis(triphenylphosphine) palladium(II) chloride and 195 mg (2,45 mmol) copper(II) oxide. The reaction mixture was heated at 100° C. for 16 h, then cooled to room temperature, 2 g of kieselgel added, and the mixture concentrated in vacuo. Flash chromatography (hexane then 1/8 ethyl acetate/hexane) followed by trituration in ether/hexane afforded 120 mg (20%) 2-amino-4-methylsulfanyl-6-pyridin-2-yl-pyrimidine-5-carbonitrile as an off-white crystalline solid. EI-MS m/e (%): 243 (M+, 95), 242 ([M—H]+, 100).

reactant | 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile | 2,45 mmol, 600 mg | NC1=NC(=C(C(=N1)Br)C#N)SC | C6H5BrN4S
reactant | 2-(tributylstannyl)pyridine | 2.94 mmol, 1.08 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.12 mmol, 86 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(II) oxide | 2,45 mmol, 195 mg | [Cu]=O
product | 2-amino-4-methylsulfanyl-6-pyridin-2-yl-pyrimidine-5-carbonitrile | 120 mg, 20% | NC1=NC(=C(C(=N1)SC)C#N)C1=NC=CC=C1 | C11H9N5S
